US07705004B2
A mixture of 2,4-dichloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine (400 mg, 1.17 mmol), 6-aminoindazole (171 mg, 1.29 mmol) and triethylamine (0.400 mL, 2.88 mmol) in n-butyl alcohol (10 mL) was heated at 80° C. overnight. After cooling down, H2O and CH2Cl2 were added. The organic phase was separated, washed with 1N HCl, followed by 5% NaHCO3, before it was dried over Na2SO4 and concentrated in vacuo to give 2-chloro-N-(1H-indazol-6-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine as a solid (490 mg).

reactant | 2,4-dichloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine | 1.17 mmol, 400 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)Cl | C13H9Cl2N3O2S
reactant | 6-aminoindazole | 1.29 mmol, 171 mg | NC1=CC=C2C=NNC2=C1 | C7H7N3
reactant | triethylamine | 2.88 mmol, 0.400 mL | C(C)N(CC)CC | C6H15N
reactant | H2O | O | H2O
solvent | n-butyl alcohol | 10 mL | C(CCC)O | C4H10O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-chloro-N-(1H-indazol-6-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 490 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)NC2=CC=C1C=NNC1=C2 | C20H15ClN6O2S
